US05654436
2-Propyl-5-nitrobenzimidazole
A mixture of ethyl-butyroimidate hydrochloride (7.6 g, 50 mmol) and 4-nitro-1,2-phenylenediamine (7.6 g, 50 mmol) in ethanol (100 mL) was refluxed for 18 hours. The ethanol was evaporated under vacuum. The sticky solid was suspended in H2O (100 mL). Separation of the yellow solid gave the title compound (5.3 g, 52% yield). 1H-NMR (DMSO-d6 ; 200 MHz) δ 12.9 (s, 1H), 8.4 (s, 1H), 8.0-8.05 (d, 1H), 7.6-7.64 (d, 1H), 2.8-2.85 (t, 2H), 1.7-1.85 (m, 2H), 0.9-1.0 ppm (t, 3H),

reactant | ethyl-butyroimidate hydrochloride | 50 mmol, 7.6 g | Cl.C(C)OC(CCC)=N
reactant | 4-nitro-1,2-phenylenediamine | 50 mmol, 7.6 g | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-Propyl-5-nitrobenzimidazole | 5.3 g, 52% yield | C(CC)C=1NC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C10H11N3O2
